US07795255B2
As depicted in Scheme 24 below, anhydrous Co(OAc)2 (0.021 mmol, 5%) and SALEN (2,2′-(1,4-diiminobutane-1,4-diyl)diphenol, 0.041 mmol, 0.1 molequivalent) in 0.5 ml dry dioxane are placed in a flame-dried flask, and the mixture is stirred for 10 minutes at room temperature. A solution of thiazole (0.411 mmol) in 1 ml dry dioxane, anhydrous Cs2CO3 (0.493 mmol, 1.2 molequivalents) and CuI (0.822 mmol, 2 molequivalents) are thereafter added consecutively to the reaction mixture under argon. A solution of 4-nitrophenyl iodide (0.493 mmol, 1.2 molequivalents) in dry dioxane (0.5 ml) is then added dropwise and the resulting mixture is heated to 150° C. under argon, while monitoring the reaction progress by TLC. Once the reaction is completed (after about 10 hours), the resulting mixture is diluted with chloroform (20 ml) and filtered through a celite pad. The organic solvents are evaporated under reduced pressure and the crude product is purified by flash column chromatography, using a hexane:ethyl acetate mixture as eluent, to give pure 2-[4-nitrophenyl]thiazole.

reactant | SALEN | 0.041 mmol | C1=C/C(=C\NCCN/C=C\2/C=CC=CC2=O)/C(=O)C=C1 | C16H16N2O2
reactant | thiazole | 0.411 mmol | S1C=NC=C1 | C3H3NS
reactant | Cs2CO3 | 0.493 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-nitrophenyl iodide | 0.493 mmol | [N+](=O)([O-])C1=CC=C(C=C1)I | C6H4INO2
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | CuI | 0.822 mmol | [Cu]I
product | 2-[4-nitrophenyl]thiazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC=CN1 | C9H6N2O2S
